US03944557
4.5 gms (.01 mole) of 2-amino-6-chloro-5-cyano-1-n-octyl-4-n-octylamino pyridinium chloride (compound 14 - Table 1) was dissolved in dimethylformamide and 2.2 gms (0.01 mole) of sodium diethyldithiocarbamate added and the solution refluxed for 60 minutes. This was then cooled, filtered and the solvent evaporated off. Methanol was added and 1.6 gms (30% yield) of 2-amino-5-cyano-6-diethylthiocarbamylthio-1-n-octyl-4-n-octylamino pyridinium chloride (compound 80 - Table 5) was filtered off and recrystallised from methanol (MPt 124° - 126°C.)

reactant | 2-amino-6-chloro-5-cyano-1-n-octyl-4-n-octylamino pyridinium chloride | .01 mole, 4.5 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCCCC)C#N)Cl)CCCCCCCC
reactant | sodium diethyldithiocarbamate | 0.01 mole, 2.2 gms | C(C)N(C([S-])=S)CC.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-5-cyano-6-diethylthiocarbamylthio-1-n-octyl-4-n-octylamino pyridinium chloride | 1.6 gms, 30% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCCCC)C#N)SC(N(CC)CC)=S)CCCCCCCC | InChI=1S/C27H47N5S2.ClH/c1-5-9-11-13-15-17-19-30-24-21-25(29)32(20-18-16-14-12-10-6-2)26(23(24)22-28)34-27(33)31(7-3)8-4;/h21H,5-20H2,1-4H3,(H2,29,30);1H
